US05808055
Preparation of (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy) ethyl]-4-[(R)-2-tetrahydrofuranoylthio]-2-azetidinone
15 ml of acetonitrile, 15 ml of toluene and 0.8 g of copper (I) oxide (5.6 mmol) were added to (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone (2.7 g, 8.0 mmol), and (2R)-tetrahydrofuran-2-thiocarboxylic acid (1.2 g, 9.1 mmol) was added dropwise into the resulting mixture at 10° C. while being stirred.

reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone | 8.0 mmol, 2.7 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1SC1=CC=CC=C1)=O | C17H27NO2SSi
reactant | (2R)-tetrahydrofuran-2-thiocarboxylic acid | 9.1 mmol, 1.2 g | O1[C@H](CCC1)C(O)=S | C5H8O2S
catalyst | copper (I) oxide | 5.6 mmol, 0.8 g | [Cu-]=O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy) ethyl]-4-[(R)-2-tetrahydrofuranoylthio]-2-azetidinone | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1SC(=O)[C@@H]1OCCC1)=O | C16H29NO4SSi
